US08791142B2
Step 3) 1-[4-bromo-2-(methoxymethyl)phenyl]-2-methylpyrrolidine
To a solution of sodium hydride (2.84 g, 119 mmol) in anhydrous DMF (80 mL) was added a solution of [5-Bromo-2-(2-methylpyrrolidin-1-yl)phenyl]methanol (16 g, 59.2 mmol) in DMF (50 mL) drop wise at 0° C. After 30 minutes, methyl iodide (7.3 mL, 119 mmol) was added drop wise at 0° C. The reaction mixture was quenched with a saturated aqueous solution of NH4Cl (20 mL), then diluted with water (200 mL) and extracted with EtOAc (150 ml). The organic layer was dried (Na2SO4) and concentrated under reduced pressure to afford the title compound as a yellow oil (16.5 g, 98%). 1H NMR (CDCl3, 400 MHz) δ 7.55 (1H, s), 7.29 (1H, m), 6.86 (1H, d), 4.45 (2H, s), 3.55 (1H, m), 3.41 (1H, m), 2.82 (1H, m), 2.12-2.51 (1H, m), 1.91 (1H, m) 1.81 (1H, m), 1.58 (1H, m), 0.99 (3H, d).

reactant | sodium hydride | 119 mmol, 2.84 g | [H-].[Na+]
reactant | [5-Bromo-2-(2-methylpyrrolidin-1-yl)phenyl]methanol | 59.2 mmol, 16 g | BrC=1C=CC(=C(C1)CO)N1C(CCC1)C | C12H16BrNO
reactant | methyl iodide | 119 mmol, 7.3 mL | CI | CH3I
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-[4-bromo-2-(methoxymethyl)phenyl]-2-methylpyrrolidine | 16.5 g, 98% | BrC1=CC(=C(C=C1)N1C(CCC1)C)COC | C13H18BrNO
